US05508273
2,5-Dimethylphenyl(phenyl)methylphosphonic Acid
O,O-Diethyl 2,5-dimethylphenyl(phenyl)methylphosphonate (15.0 g, 45.1 mmol) was dissolved in ethanol (172 mL) and concentrated hydrochloric acid (290 mL). The resulting solution was heated at 110° C. for 52 hours. The mixture was cooled and the solid which formed was collected by filtration, washed with H2O(2×50 mL), CH2Cl2 (3×30 mL), and dried to afford 11.0 g (88.6 %) of analytically pure product as a white solid, mp 204°-207° C. 300 MHz 1H NMR (DMSO-D): δ,4.44 (d,1H, J=24.8 Hz, PCH), 2.25 (s, 3H, PhCH3), 2.20 (s, 3H, PhCH3). MS: 277 (M+1).

reactant | O,O-Diethyl 2,5-dimethylphenyl(phenyl)methylphosphonate | 45.1 mmol, 15.0 g | CC1=C(C=C(C=C1)C)C(C1=CC=CC=C1)P(OCC)(OCC)=O | C19H25O3P
reactant | hydrochloric acid | 290 mL | Cl | ClH
solvent | ethanol | 172 mL | C(C)O | C2H6O
product | 2,5-Dimethylphenyl(phenyl)methylphosphonic Acid | CC1=C(C=C(C=C1)C)OP(O)(=O)CC1=CC=CC=C1 | C15H17O3P
